US08455534B2
Step 3: 5-Bromo-4-fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
To a mixture of 5-bromo-4-fluoro-1H-indazole (50 g, 0.23 mol) and DHP (23 g, 0.28 mol) in dry dichloromethane (1000 mL) was added PTSA (2.2 g, 11.5 mmol) at room temperature. The resulting mixture was stirred overnight at that temperature. Upon completion, saturated aqueous NaHCO3 (100 mL) was added slowly into the reaction mixture. The organic layer was separated, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (0˜2% EtOAc in petroleum ether) and then re-crystallized from petroleum ether to afford the title compound (55 g). 1H NMR (300 MHz, DMSO-d6): δ 8.28 (s, 1H), 7.58-7.66 (m, 2H), 5.89 (dd, 1H), 3.90-3.85 (m, 1H), 3.79-3.70 (m, 1H), 2.42-2.29 (m, 1H), 2.06-1.94 (m, 2H), 1.77-1.68 (m, 1H), 1.60-1.53 (m, 2H); LCMS: 299 (M+H)+.

reactant | 5-bromo-4-fluoro-1H-indazole | 0.23 mol, 50 g | BrC=1C(=C2C=NNC2=CC1)F | C7H4BrFN2
reactant | DHP | 0.28 mol, 23 g | C1CC=COC1 | C5H8O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
catalyst | PTSA | 11.5 mmol, 2.2 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 5-Bromo-4-fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 55 g | BrC=1C(=C2C=NN(C2=CC1)C1OCCCC1)F | C12H12BrFN2O
